US05416211
N-[4-[2-[2-Amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl]ethyl]benzoyl]glutamic acid
A mixture of 0.50 g (1.1 mmol) of N-[4-[2-[2-amino-4,7 -dihydro-4-oxo-3H-pyrrolo[2,3 -d]pyrimidin-5-yl]ethyl]benzoyl]glutamic acid dimethyl ester, prepared in Preparation 5, and 3.3 ml of 2N aqueous sodium hydroxide was stirred at room temperature for 48 hours and neutralized to a pH of 5 with 6M aqueous hydrochloric acid. The precipitate was filtered, washed with water and dried, to give 0.277 g of the above product in a yield of 59 percent.

reactant | N-[4-[2-[2-amino-4,7 -dihydro-4-oxo-3H-pyrrolo[2,3 -d]pyrimidin-5-yl]ethyl]benzoyl]glutamic acid dimethyl ester | 1.1 mmol, 0.50 g | COC([C@@H](NC(C1=CC=C(C=C1)CCC1=CNC=2N=C(NC(C21)=O)N)=O)CCC(=O)OC)=O | C22H25N5O6
reactant | sodium hydroxide | 2N, 3.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6M | Cl | ClH
product | N-[4-[2-[2-Amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl]ethyl]benzoyl]glutamic acid | 0.277 g, yield of 59 percent | NC=1NC(C2=C(N1)NC=C2CCC2=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C2)=O | C20H21N5O6
